US07714009B2
Imidazo[1,2-a]pyridin-5-amine
2,6-diaminopyridine (5.0 g, 46 mmol) and chloroacetaldehyde (50% wt. soln in water, 6.4 mL, 50 mmol) were dissolved in absolute EtOH (120 mL). The solution was heated at 75° C. for 1 hour. The mixture was cooled and concentrated via rotavap. The residue was taken up in saturated NaHCO3 and EtOAc. The solution was extracted with EtOAc (3 times), dried over magnesium sulfate, and concentrated to give a brown solid. 4.85 g isolated (80% yield).

reactant | 2,6-diaminopyridine | 46 mmol, 5.0 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | chloroacetaldehyde | 50 mmol, 6.4 mL | ClCC=O | C2H3ClO
solvent | EtOH | 120 mL | CCO | C2H6O
product | Imidazo[1,2-a]pyridin-5-amine | 80% yield | N=1C=CN2C1C=CC=C2N | C7H7N3
